US08084448B2
B. 3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzaldehyde
To a solution of 5-(2-benzyloxy-4-vinylphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (1.9 g, 4.3 mmol) in 1:1:1 THF/t-BuOH/H2O (60 mL) is added 1-methylmorpholine-N-oxide (551 mg, 4.74 mmol) and OsO4 (2 mL of a 2.5 wt % solution in t-BuOH, 0.17 mmol). The reaction is stirred for 4 h at RT, then diluted with water (15 mL) and treated with NalO4 (4.5 g, 21.5 mmol) and NaHCO3 (3.6 g, 43 mmol). The mixture is stirred vigorously for 1 h, then filtered through Celite. The solution is extracted with EtOAc. The organic phase is washed with sat. NaCl. The solution is dried over MgSO4 and the solvent removed under reduced pressure. The residue is purified by column chromatography using a gradient of 0-40% EtOAc/hexane to afford the title compound as a white solid: (M+NH4)+=464.

reactant | 5-(2-benzyloxy-4-vinylphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 4.3 mmol, 1.9 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C=C)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C22H28N2O4SSi
reactant | THF t-BuOH H2O | 60 mL | C1CCOC1.CC(C)(C)O.O
reactant | NaHCO3 | 43 mmol, 3.6 g | C(=O)(O)[O-].[Na+]
solvent | t-BuOH | CC(C)(C)O | C4H10O
solvent | water | 15 mL | O | H2O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | 3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O | C21H26N2O5SSi
